US09422281B2
4-isopropyl 1-methyl (S)-6-bromo-2-methyl-2,3-dihydroquinoxaline-1,4-dicarboxylate was synthesized from (S)-methyl 6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate according to the procedure outlined above for (S)-isopropyl 7-bromo-4-(cyclopropanecarbonyl)-3-methyl-3,4-dihydroquinoxalin-1(2H)carboxylate. MS (ESI, pos. ion) m/z 393, 395 [M+Na]+.

reactant | (S)-methyl 6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | BrC=1C=C2NC[C@@H](N(C2=CC1)C(=O)OC)C | C11H13BrN2O2
reactant | (S)-isopropyl 7-bromo-4-(cyclopropanecarbonyl)-3-methyl-3,4-dihydroquinoxalin-1(2H)carboxylate | BrC1=CC=C2N([C@H](CN(C2=C1)C(=O)OC(C)C)C)C(=O)C1CC1 | C17H21BrN2O3
product | 4-isopropyl 1-methyl (S)-6-bromo-2-methyl-2,3-dihydroquinoxaline-1,4-dicarboxylate | BrC=1C=C2N(C[C@@H](N(C2=CC1)C(=O)OC)C)C(=O)OC(C)C | C15H19BrN2O4
